US07179819B2
To a stirred solution of dimethyl 4-hydroxyisophthalate (1.27 g, 6.04 mmol), (S)-N-Boc-Prolinol (1.22 g, 6.06 mmol), PPh3 (1.90 g, 7.24 mmol) in THF (30 mL) was added DIAD (1.43 mL, 7.26 mmol)at room temp. The resulting stirred mixture was then heated under reflux for 15 hr. After cooling to room temp, the resulting mixture was evaporated and the residue was purified by column chromatography on silica-gel with n-hexane-EtOAc (3:1, v/v) as eluent to give 2.10 g (88%) dimethyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]isophthalate as a yellow oil. 1H-NMR (CDCl3) δ 1.26 (s, 9 H), 1.85–2.16 (m, 3 H), 3.36–3.46 (m, 2 H), 3.90 (s, 6 H), 4.11–4.31 (m, 2 H), 4.95–5.02 (m, 2 H), 7.09 (dd, H, J=9.3, 24.9 Hz), 8.11–8.14 (m, 1 H), 8.46 (d, 1 H, J=9.3 Hz)

reactant | dimethyl 4-hydroxyisophthalate | 6.04 mmol, 1.27 g | OC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C10H10O5
reactant | (S)-N-Boc-Prolinol | 6.06 mmol, 1.22 g | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
reactant | PPh3 | 7.24 mmol, 1.90 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 7.26 mmol, 1.43 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | dimethyl (S)-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]isophthalate | 2.10 g, 88% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C20H27NO7
